US04895840
2-[4-(Methylthio)phenoxy]ethanol
A mixture of 105.46 g (0.753 mole) of 4-(methylthio)phenol, 62.0 g (0.772 mole) of 2-chloroethanol and 105 g (0.761 mole) of potassium carbonate in approximately one liter of acetonitrite was refluxed overnight. The cooled mixture was filtered, and the solvent was removed in vacuo to give a solid. This was recrystallized from diethyl ether-hexane to give 39.59 g (28.6%) of the product as a white, crystalline solid, mp 55°-56° C.

reactant | 4-(methylthio)phenol | 0.753 mole, 105.46 g | CSC1=CC=C(C=C1)O | C7H8OS
reactant | 2-chloroethanol | 0.772 mole, 62.0 g | ClCCO | C2H5ClO
reactant | potassium carbonate | 0.761 mole, 105 g | C([O-])([O-])=O.[K+].[K+]
product | 2-[4-(Methylthio)phenoxy]ethanol | 39.59 g, 28.6% | CSC1=CC=C(OCCO)C=C1 | C9H12O2S
